US04693992
Preparation of Zinc Lysocellin
A mixture of 13.0 g of sodium lysocellin and 5.0 g zinc acetate dihydrate in 150 ml of acetone was stirred at ambient temperature for approximately 18 hours. Stirring was continued and two volumes of water were added slowly to precipitate the zinc salt. The product was isolated and dried (14.0 g). The zinc salt was recrystallized from acetone. The resulting solid product had a melting point of 102.0° C. Analysis: % Zn calculated (4.95); Found (4.37).

reactant | sodium lysocellin | 13.0 g | [Na].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O
reactant | zinc acetate dihydrate | 5.0 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
reactant | water | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | Zinc Lysocellin | [Zn].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O | InChI=1S/C34H60O10.Zn/c1-11-24(29(38)22(8)28(37)23(9)30-19(5)14-18(4)25(41-30)15-27(36)43-40)31-20(6)16-32(10,42-31)34(39)21(7)17-33(13-3,44-34)26(35)12-2;/h18-26,28,30-31,35,37,39-40H,11-17H2,1-10H3;/t18-,19+,20+,21-,22+,23-,24+,25+,26+,28-,30+,31+,32+,33+,34-;/m1./s1
